US06194426B1
Ethyl N-(2-fluoronicotinoyl)-3,4,5,6-tetrahydro-2H-1,3-thiazine-4-carboxylate is prepared by the method described in European Patent Application EP 118321, but from 12.5 g of ethyl 3,4,5,6-tetrahydro-2H-1,3-thiazine-4-carboxylate hydrochloride and 13.5 g of 2-fluoronicotinic acid. 8.2 g of ethyl N-(2-fluoronicotinoyl)-3,4,5,6-tetrahydro-2H-1,3-thiazine-4-carboxylate are thus obtained in the form of light-yellow oil, employed as such in the following reaction.

reactant | ethyl 3,4,5,6-tetrahydro-2H-1,3-thiazine-4-carboxylate hydrochloride | 12.5 g | Cl.S1CNC(CC1)C(=O)OCC
reactant | 2-fluoronicotinic acid | 13.5 g | FC1=C(C(=O)O)C=CC=N1 | C6H4FNO2
product | ethyl N-(2-fluoronicotinoyl)-3,4,5,6-tetrahydro-2H-1,3-thiazine-4-carboxylate | 8.2 g | FC1=C(C(=O)N2CSCCC2C(=O)OCC)C=CC=N1 | C13H15FN2O3S
